US05977410
(8) Synthesis of N-{2-[4-(2-chloro-1,1,2-trifluoroethoxy)-phenoxy]ethyl}-2,6-difluorobenzamide (Compound (1-38))
A tetrahydrofuran (5 ml) solution of 2,6-difluorobenzoyl chloride (0.71 g) was added dropwise under ice-cooling and stirring to a tetrahydrofuran (20 ml) solution of 2-[4-(2-chloro-1,1,2-trifluoroethoxy)phenoxy]ethylamine (1.08 g) and triethylamine (0.40 g) and the mixture was further stirred at room temperature for one hour.

reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
reactant | 2,6-difluorobenzoyl chloride | 0.71 g | FC1=C(C(=O)Cl)C(=CC=C1)F | C7H3ClF2O
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | 2-[4-(2-chloro-1,1,2-trifluoroethoxy)phenoxy]ethylamine | 1.08 g | ClC(C(OC1=CC=C(OCCN)C=C1)(F)F)F | C10H11ClF3NO2
solvent | triethylamine | 0.40 g | C(C)N(CC)CC | C6H15N
product | N-{2-[4-(2-chloro-1,1,2-trifluoroethoxy)-phenoxy]ethyl}-2,6-difluorobenzamide | ClC(C(OC1=CC=C(OCCNC(C2=C(C=CC=C2F)F)=O)C=C1)(F)F)F | C17H13ClF5NO3
